US04490374
2-(N-Carbethoxyamino)-5,6-dimethoxybenzaldehyde
2-(N-Carbethoxyamino)-5,6-dimethoxybenzaldehyde-ethyleneketal (5.0 g, 16.8 mM) is dissolved in acetone (36 ml) and aqueous HCl (3 ml of 1N solution). The mixture is stirred at room temperature for 4 hours. The solvent is removed in vacuo to give a yellow solid (3.9 g). Recrystallization from n-hexane gives the pure product as a yellow solid; yield 3.6 g (84.7%); m.p. 86°-88° C.

reactant | 2-(N-Carbethoxyamino)-5,6-dimethoxybenzaldehyde-ethyleneketal | 16.8 mM, 5.0 g | C1COC(C2=C(C=CC(=C2OC)OC)NC(=O)OCC)O1 | C14H19NO6
reactant | HCl | 1N, 3 ml | Cl | ClH
solvent | acetone | 36 ml | CC(=O)C | C3H6O
product | 2-(N-Carbethoxyamino)-5,6-dimethoxybenzaldehyde | 3.9 g | C(=O)(OCC)NC1=C(C=O)C(=C(C=C1)OC)OC | C12H15NO5
